US04440785
3-Methylthio-5-phenylindolin-2-one
A solution of 21.4 g. (0.13 mole) of 4-aminobiphenyl in 400 ml. of methylene chloride was cooled to -65° C. and treated with 17.0 g. (0.13 mole) of ethyl 2-methylthioacetate and then 14.2 g. (0.132 mole) of t-butylhypochlorite while maintaining the temperature below -60° C. The reaction mixture was stirred at -65° C. for 1.5 hr., treated with 13.3 g. (0.132 mole) of triethyl amine and allowed to warm to ambient temperature. The solution was washed twice with water and concentrated. The residue was dissolved in 200 ml. of methanol, 40 ml. of 3 N hydrochloric acid was added, and the mixture was refluxed over night. The solution was concentrated until a solid began to precipitate. The mixture was cooled, and the solid was collected by filtration, recrystallized once from methanol and twice from benzene to yield 6.0 g. (18%) of product as a white solid, m.p. 170°-2° C.

reactant | 4-aminobiphenyl | 0.13 mole | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | ethyl 2-methylthioacetate | 0.13 mole | CCC(=S)OCC | C5H10OS
reactant | t-butylhypochlorite | 0.132 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | triethyl amine | 0.132 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Methylthio-5-phenylindolin-2-one | CSC1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O | C15H13NOS
